US06919332B2
A mixture of 4-(4-methoxy-phenoxy)-2-methylnitrobenzene (3.5 grams, mmol) and methanol (200 mL) was treated with 200 miligrams of 10% palladium on carbon and was shaken under 50 psi of hydrogen gas for 3 hours. Filtration through a pad of celite and concentration in vacuo afforded 3.1 grams of 4-(4-methoxy-phenoxy)-2-methyl-phenylamine as a tan solid.

reactant | 4-(4-methoxy-phenoxy)-2-methylnitrobenzene | 3.5 grams | COC1=CC=C(OC2=CC(=C(C=C2)[N+](=O)[O-])C)C=C1 | C14H13NO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | 200 mL | CO | CH4O
product | 4-(4-methoxy-phenoxy)-2-methyl-phenylamine | 3.1 grams | COC1=CC=C(OC2=CC(=C(C=C2)N)C)C=C1 | C14H15NO2
